US07094801B2
Ex-63A: A solution of 2-fluoro-5-thiophen-2-yl-benzaldehyde (1.42 g, 6.89 mmol) in pyrrolidine was refluxed (10 mL). After 4.5 days the reaction mixture was cooled and diluted with ethyl acetate. The solution of ethyl acetate was washed with hydrochloric acid (0.5M) sodium carbonate (2M) and saturated solution of sodium bicarbonate, dried over sodium sulfate, and concentrated. The crude product was purified by flash chromatography. Elution with ethyl acetate (20%, v/v, in hexane) afforded 2-pyrrolidin-1-yl-5-thiophen-2-yl-benzaldehyde (0.5 g, 32%). 1H NMR (CDCl3) δ 10.14 (s, 1H), 7.94 (d, J=2 Hz, 1H), 7.62 (dd, J=2.7, 9 Hz, 1H), 7.22–7.20 (m, 2H), 7.07–7.04 (m, 1H), 6.86 (d, J=9 Hz, 1H), 3.41 (m, 4H), 2.01 (m, 4H).

reactant | 2-fluoro-5-thiophen-2-yl-benzaldehyde | 6.89 mmol, 1.42 g | FC1=C(C=O)C=C(C=C1)C=1SC=CC1 | C11H7FOS
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-pyrrolidin-1-yl-5-thiophen-2-yl-benzaldehyde | 0.5 g, 32% | N1(CCCC1)C1=C(C=O)C=C(C=C1)C=1SC=CC1 | C15H15NOS
